US06969717B2
1-Triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (375 mg, 1.3 mmol) and triethylamine (271 μL, 1.95 mmol) in dichloromethane (10 mL) was treated with di-tert-butyl dicarbonate (340 mg, 1.5 mmol) and the mixture was stirred at RT for 2.5 h., quenched with saturated ammonium chloride (20 mL) and extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (50 mL), dried (MgSO4.), filtered and concentrated. The residue was purified by preparative HPLC. B. 1-Triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-carbamic acid tert-butyl ester (250 mg, 0.6 mmol) was then treated with sodium hydride (24 mg, 60% oil, 0.6 mmol) and methyl iodide (48 mL, 0.77 mmol) in DMF (2.0 mL). The mixture was stirred at RT for 16 h, quenched with saturated ammonium chloride (20 mL) and extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (50 mL), dried (MgSO4.), filtered and concentrated. The residue, which was used with no further purification, was then treated with TFA (1.0 mL) in dichloromethane (4.0 mL) and the mixture was stirred at RT for 10 h, concentrated and purified by preparative HPLC to afford methyl(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine (31 mg, 33%). m/z 148 (M+H)+.

reactant | 1-Triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine | 1.3 mmol, 375 mg | C(C)(C)[Si](N1C=CC=2C1=NC=C(C2)N)(C(C)C)C(C)C | C16H27N3Si
reactant | triethylamine | 1.95 mmol, 271 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.5 mmol, 340 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbamic acid tert-butyl ester | 0.6 mmol, 250 mg | C(C)(C)(C)OC(N)=O | C5H11NO2
reactant | sodium hydride | 0.6 mmol, 24 mg | [H-].[Na+]
reactant | methyl iodide | 0.77 mmol, 48 mL | CI | CH3I
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | methyl(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine | 31 mg, 33% | CNC=1C=C2C(=NC1)NC=C2 | C8H9N3
